US05929094
Step E: 4-Bromo-2-methyl-6-amino-benzooxazole
To a solution of 720 mg of 4-bromo-2-methyl-6-nitro-benzooxazole in 45 mL ETOH was added 642 mg of iron powder and 8.5 mL of AcOH. Solution was refluxed for 2.5 h, during which a chalky white color formed. Solvent was removed, solid was dissolved back into DCM and filtered through Celite. The filtrate was washed with satd. NaHCO3 and brine, dried over MgSO4, and solvent evaporated. 690 mg of title compound as a brown solid was recovered.

reactant | 4-bromo-2-methyl-6-nitro-benzooxazole | 720 mg | BrC1=CC(=CC2=C1N=C(O2)C)[N+](=O)[O-] | C8H5BrN2O3
catalyst | iron | 642 mg | [Fe] | Fe
solvent | AcOH | 8.5 mL | CC(=O)O | C2H4O2
product | 4-Bromo-2-methyl-6-amino-benzooxazole | BrC1=CC(=CC2=C1N=C(O2)C)N | C8H7BrN2O
